US04870063
2-(1-Butyl)-3-thiomorpholinone
Potassium hydroxide (56 g) was added to a suspension of cysteamine, hydrochloride (56.6 g) in absolute ethanol (300 ml) followed by dropwise addition of ethyl 2-bromohexanoate (111.5 g). When the exothermic reaction ceased, the mixture was refluxed for 3 hours and filtered. Concentration of the filtrate in vacuo gave the title compound as a viscous oil which was used in the next step without purification.

reactant | Potassium hydroxide | 56 g | [OH-].[K+]
reactant | cysteamine, hydrochloride | 56.6 g | Cl.NCCS
reactant | ethyl 2-bromohexanoate | 111.5 g | BrC(C(=O)OCC)CCCC | C8H15BrO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(1-Butyl)-3-thiomorpholinone | C(CCC)C1C(NCCS1)=O | C8H15NOS
